US09085555B2
C. (2S,4R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,4S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-hydroxy-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester (865 mg, 2.1 mmol) in CH2Cl2 (60 mL) under nitrogen at −78° C. was added DAST (550 μL, 4.16 mmol) and the solution was slowly allowed to reach RT and stirred for 1 h. The reaction mixture was poured into cold aqueous saturated NaHCO3 solution and extracted with CH2Cl2 (×2). The combined organic layers were dried (Na2SO4), filtered and concentrated to give the desired material which was used in the next step without further purification. TLC, Rf (EtOAc)=0.75; MS (UPLC/MS): 389.3/391.3 [M+H]+, 411.3/413.2 [M+Na]+, 333.2/335. [MH−tBu]+, 289.2/291.2 [MH−Boc]+, 387.2/389.4 [M−H]−, 433./435.2 [M+HCOO]−; tR (HPLC conditions f): 2.2 min.

reactant | (2S,4S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-hydroxy-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.1 mmol, 865 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@](C1)(C)O)C(NCC1=C(C(=CC=C1)Cl)F)=O | C18H24ClFN2O4
reactant | DAST | 4.16 mmol, 550 μL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@](C1)(C)F)C(NCC1=C(C(=CC=C1)Cl)F)=O | C18H23ClF2N2O3
